US07645789B2
Sodium hydroxide solution (10%, 15 mL) was added slowly to a stirred suspension of (3-nitrophenyl)hydrazine hydrochloride (1.89 g, 10 mmol) in ethanol (20 mL) until pH 6. Acetic acid (5 mL) was added to the mixture followed by propionaldehyde (0.7 g, 12 mmol). After stirring for 3 h at room temperature, the mixture was poured into ice-water and the resulting precipitate was isolated by filtration, washed with water and dried in air to obtain (E)-1-(3-nitrophenyl)-2-propylidenehydrazine, which was used directly in the next step.

reactant | Sodium hydroxide | 15 mL | [OH-].[Na+]
reactant | (3-nitrophenyl)hydrazine hydrochloride | 10 mmol, 1.89 g | Cl.[N+](=O)([O-])C=1C=C(C=CC1)NN
reactant | Acetic acid | 5 mL | C(C)(=O)O | C2H4O2
reactant | propionaldehyde | 12 mmol, 0.7 g | C(CC)=O | C3H6O
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | (E)-1-(3-nitrophenyl)-2-propylidenehydrazine | [N+](=O)([O-])C=1C=C(C=CC1)N/N=C/CC | C9H11N3O2
